US07576135B2
2-oxo-2-(4-toluidino)acetic acid methyl ester
The method described in Referential Example 242 was performed by use of p-toluidine and methyl chlorooxoacetate, whereby the title compound was obtained.

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-oxo-2-(4-toluidino)acetic acid methyl ester | COC(C(NC1=CC=C(C=C1)C)=O)=O | C10H11NO3
